US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-N2-(3,4-dimethoxybenzyl)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methoxybenzene, and 3,4-dimethoxybenzylamine the title compound was obtained in 97% purity by LC/MS. MS(ESI+): m/z=483.2.

reactant | (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | (2S,4EZ)-4-[(allyloxy)imino]-N2-(3,4-dimethoxybenzyl)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(=O)NC1=CC(=CC=C1)OC)C(=O)NCC1=CC(=C(C=C1)OC)OC | C25H30N4O6
